US07495007B2
To a solution of E/Z-6-chloro-3-(5-chloro-2-iodo-benzylidene)-1,3-dihydro-indol-2-one (5.3 g, 12.8 mmol) in dichloromethane (50 mL) at room temperature was added di-tert-butyl-dicarbonate (3.4 g, 15.3 mmol), followed by the addition of 4-dimethylaminopyridine (0.16 g, 1.3 mmol). The reaction mixture was stirred at room temperature for 1 h. The mixture was then concentrated and the residue was purified by chromatography to give E/Z-6-chloro-3-(5-chloro-2-iodo-benzylidene-2-oxo-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester (Yield 5.5 g).

reactant | Z-6-chloro-3-(5-chloro-2-iodo-benzylidene)-1,3-dihydro-indol-2-one | 12.8 mmol, 5.3 g | ClC1=CC=C2/C(/C(NC2=C1)=O)=C/C1=C(C=CC(=C1)Cl)I | C15H8Cl2INO
reactant | di-tert-butyl-dicarbonate | 15.3 mmol, 3.4 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 1.3 mmol, 0.16 g | CN(C1=CC=NC=C1)C | C7H10N2
product | 5-chloro-2-iodo-benzylidene-2-oxo-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester | Yield 5.5 g | C(C)(C)(C)OC(=O)N1C(C(C2=CC=CC=C12)=CC1=C(C=CC(=C1)Cl)I)=O | C20H17ClINO3
